US08012976B2
8-(1-Benzyl-1H-imidazol-2-yl)-9-(4-fluorophenyl)-8,9-dihydro-2H-pyrido[4,3,2-de]phthalazin-3(7H)-one
A mixture of ethyl 2-(1-benzyl-1H-imidazol-2-yl)-3-(4-fluorophenyl)-4-oxo-1,2,3,4-tetrahydroquinoline-5-carboxylate (280 mg, 0.59 mmol) and hydrazine monohydrate (2 mL, 85%) in methanol (4 mL) was stirred at 40° C. for 2 hr, and then evaporated to half of the original volume. The mixture was filtrated and washed the solid with ethyl acetate to obtain the title compound (200 mg, yield 96%). LC-MS (ESI) m/z: 437 (M+1)+.

reactant | ethyl 2-(1-benzyl-1H-imidazol-2-yl)-3-(4-fluorophenyl)-4-oxo-1,2,3,4-tetrahydroquinoline-5-carboxylate | 0.59 mmol, 280 mg | C(C1=CC=CC=C1)N1C(=NC=C1)C1NC=2C=CC=C(C2C(C1C1=CC=C(C=C1)F)=O)C(=O)OCC | C28H24FN3O3
reactant | hydrazine monohydrate | 2 mL | O.NN
solvent | methanol | 4 mL | CO | CH4O
product | 8-(1-Benzyl-1H-imidazol-2-yl)-9-(4-fluorophenyl)-8,9-dihydro-2H-pyrido[4,3,2-de]phthalazin-3(7H)-one | 200 mg, yield 96% | C(C1=CC=CC=C1)N1C(=NC=C1)C1C(C2=NNC(C=3C=CC=C(C23)N1)=O)C1=CC=C(C=C1)F | C26H20FN5O
